US05070089
In 16 ml of ethanol, 1.61 g (10 mmol.) of 2-chlorobenzyl chloride, 1.76 g (10 mmol.) of methyl 1-piperazinecarbodithioate and 1.06 g (10 mmol.) of sodium carbonate were heated to reflux for 4 hours. Ethanol was distilled off under reduced pressure, and to the residue was added water. The aqueous mixture was extracted with 30 ml of ether. The ether extract was shaken with 15 ml of 3N-hydrochloric acid. There were separated three layers. The aqueous portion and the oil portion were taken out and combined. The combined mixture was made alkaline with 1-N aqueous sodium hydroxide solution and extracted with ether. The ether portion was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and placed under reduced pressure to distill off the solvent. The residue was purified over a silica gel column to give 1.03 g of methyl 4-(2-chlorobenzyl)-1-piperazinecarbothioate as a pale brown oil, yield 34.3%.

reactant | 2-chlorobenzyl chloride | 10 mmol, 1.61 g | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | methyl 1-piperazinecarbodithioate | 10 mmol, 1.76 g | N1(CCNCC1)C(=S)SC | C6H12N2S2
reactant | sodium carbonate | 10 mmol, 1.06 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 16 ml | C(C)O | C2H6O
product | methyl 4-(2-chlorobenzyl)-1-piperazinecarbothioate | 1.03 g, yield 34.3% | ClC1=C(CN2CCN(CC2)C(OC)=S)C=CC=C1 | C13H17ClN2OS
